US06121322
Diethyl 2-amino-6-[(3-diethylamino-propoxycarbamoyl)-methyl]-azulene-1,3-dicarboxylate
In an analogous manner to that described in Example 1, from diethyl 2-amino-6-[(hydroxycarbamoyl)-methyl]-azulene-1,3-dicarboxylate sodium and 3-diethylamino-propyl chloride the title compound of m.p. 125-127° C. is obtained in 42% yield.

reactant | diethyl 2-amino-6-[(hydroxycarbamoyl)-methyl]-azulene-1,3-dicarboxylate sodium | [Na].NC1=C(C2=CC=C(C=CC2=C1C(=O)OCC)CC(NO)=O)C(=O)OCC
reactant | 3-diethylamino-propyl chloride | C(C)N(CCCCl)CC | C7H16ClN
product | Diethyl 2-amino-6-[(3-diethylamino-propoxycarbamoyl)-methyl]-azulene-1,3-dicarboxylate | 42% yield | NC1=C(C2=CC=C(C=CC2=C1C(=O)OCC)CC(NOCCCN(CC)CC)=O)C(=O)OCC | C25H35N3O6
